US04455307
8-Chloro-6-phenyl-1-thiomorpholino-4H-s-triazolo[4,3-a][1,4]benzodiazepine
A mixture of 2.0 gm (5.35 mmol) of 8-chloro-1-bromo-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine and 2.0 ml of thiomorpholine was heated under nitrogen in an oil bath at 120° C. for 18 hr and then allowed to cool. The reaction mixture was treated with methylene chloride and water. The organic layer was separated, washed with dilute brine and concentrated in vacuo. The residue was recrystallized from methanol to yield 1.40 gm (72.7%) with m.p. 241°-243° C. and 0.46 gm (23.9%) with m.p. 239°-241° C. of the title product. Analysis of the title product for carbon, hydrogen, nitrogen, chlorine and sulphur revealed 60.47% C, 4.58% H, 18.03% N, 9.14% Cl, and 8.09% S. Calculated values for such an analysis for the title product are: 60.67% C, 4.58% H, 17.69% N, 8.98% Cl, and 8.10% S.

reactant | 8-chloro-1-bromo-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 5.35 mmol, 2.0 gm | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)Br)C3=CC=CC=C3)C1 | C16H10BrClN4
reactant | thiomorpholine | 2.0 ml | N1CCSCC1 | C4H9NS
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 8-Chloro-6-phenyl-1-thiomorpholino-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C=NCC=3N2C(=NN3)N3CCSC(C3)C3=CC=CC=C3)C1 | C20H18ClN5S
